US04743610
2-Amino-4-Chloro-N-[4-(3-pyridinyl)butyl]benzamide dihydrochloride
A mixture of 1.72 g of 4-chloroanthranilic acid, 1.62 g of N,N'-carbonyldiimidazole and 25 ml of tetrahydrofuran was stirred for 3 hours at 5°-25° C. and 1.50 g of 4-(3-pyridinyl)butylamine was added. The mixture was stirred overnight at room temperature, heated at reflux temperature for 1 hour and then with 10 ml of water for 30 minutes. The reaction mixture was concentrated and 100 ml of methylene chloride and 5 ml of 1N sodium hydroxide were added. The layers were separated and the organic layer was concentrated, washed with water, dried over magnesium sulfate and concentrated. The residue was treated with ethanolic hydrogen chloride. The mixture was again concentrated and triturated with acetone to obtain crystals of the desired product, mp 208°-210° C. after recrystallization from ethanol.

reactant | 4-chloroanthranilic acid | 1.72 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | 4-(3-pyridinyl)butylamine | 1.50 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | water | 10 ml | O | H2O
product | 2-Amino-4-Chloro-N-[4-(3-pyridinyl)butyl]benzamide dihydrochloride | Cl.Cl.NC1=C(C(=O)NCCCCC=2C=NC=CC2)C=CC(=C1)Cl | InChI=1S/C16H18ClN3O.2ClH/c17-13-6-7-14(15(18)10-13)16(21)20-9-2-1-4-12-5-3-8-19-11-12;;/h3,5-8,10-11H,1-2,4,9,18H2,(H,20,21);2*1H
